US04642313
1.1 g of ethyl 2-[2-methyl-5-(2-furyl)-4-oxazolyl]acetate, 20 ml of methanol, 5 ml of water and 0.7 g of potassium hydroxide are treated in the same manner as described in Example 16. 0.55 g of 2-[2-methyl-5-(2-furyl)-4-oxazolyl]acetic acid is obtained. Yield: 56.5%

reactant | ethyl 2-[2-methyl-5-(2-furyl)-4-oxazolyl]acetate | 1.1 g | CC=1OC(=C(N1)CC(=O)OCC)C=1OC=CC1 | C12H13NO4
reactant | methanol | 20 ml | CO | CH4O
reactant | potassium hydroxide | 0.7 g | [OH-].[K+]
solvent | water | 5 ml | O | H2O
product | 2-[2-methyl-5-(2-furyl)-4-oxazolyl]acetic acid | 0.55 g, Yield: 56.5% | CC=1OC(=C(N1)CC(=O)O)C=1OC=CC1 | C10H9NO4
